US04678787
A mixture of 7-(3-chloropropoxy)-4H-benzopyran-4-one as prepared above in Preparation I (2.38 g; 10 mmol), 1-(2-chlorophenyl)piperazine dihydrochloride (2.96 g; 11 mmol), sodium bicarbonate (3 g; 35 mmol), sodium iodide (0.1 g; 0.6 mmole) in 50 ml dimethylformamide was mechanically stirred and heated at 85°-90° C. for seven hours. The solvent was then evaporated in vacuo and the residue partitioned between water and dichloromethane. The organic phase was treated with an excess of 10% HCl solution in methanol, evaporated in vacuo and the residue recrystallized from ethanol/ethyl acetate to yield 3.2 g of 7-[3-(4-(2-chlorophenyl)-1-piperazinyl)propoxy]-4H-1-benzopyran-4-one as its hydrochloride salt, mp 201°-203° C. (dec).

reactant | 7-(3-chloropropoxy)-4H-benzopyran-4-one | ClCCCOC1=CC2=C(C(C=CO2)=O)C=C1 | C12H11ClO3
reactant | 1-(2-chlorophenyl)piperazine dihydrochloride | 11 mmol, 2.96 g | Cl.Cl.ClC1=C(C=CC=C1)N1CCNCC1
reactant | sodium bicarbonate | 35 mmol, 3 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | sodium iodide | 0.6 mmole, 0.1 g | [I-].[Na+]
product | 7-[3-(4-(2-chlorophenyl)-1-piperazinyl)propoxy]-4H-1-benzopyran-4-one | 3.2 g | ClC1=C(C=CC=C1)N1CCN(CC1)CCCOC1=CC2=C(C(C=CO2)=O)C=C1 | C22H23ClN2O3
